US09416132B2
To a solution of 6-chloro-3-(3-chlorophenyl)imidazo[1,2-b]pyridazine (100 mg, 0.38 mmol) and cyclohexane-1,3-diamine (43 mg, 0.38 mmol) in NMP (1.0 mL) was added NaHCO3 (32 mg, 0.38 mmol), the mixture was stirred at 180° C. for 60 mins under microwave irridation. The mixture was purified by flash chromatograph to give N1-(3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)cyclohexane-1,3-diamine (30 mg, 0.088 mmol, 23%) as a pale yellow solid.

reactant | 6-chloro-3-(3-chlorophenyl)imidazo[1,2-b]pyridazine | 0.38 mmol, 100 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)Cl | C12H7Cl2N3
reactant | cyclohexane-1,3-diamine | 0.38 mmol, 43 mg | C1(CC(CCC1)N)N | C6H14N2
reactant | NaHCO3 | 0.38 mmol, 32 mg | C(=O)(O)[O-].[Na+]
solvent | NMP | 1.0 mL | CN1CCCC1=O | C5H9NO
product | N1-(3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)cyclohexane-1,3-diamine | 0.088 mmol, 30 mg, 23% | ClC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)NC2CC(CCC2)N | C18H20ClN5
